US08648099B2
Preparation of 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-N-(4-hydroxypiperidin-1-yl)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid (CAN 1018782-76-7) and 1-amino-4-piperidinol (CAN 79414-82-7) as starting materials; MS (EI) 402.4 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC1CC1)C(=O)O | C16H14ClNO3
reactant | 1-amino-4-piperidinol | NN1CCC(CC1)O | C5H12N2O
product | 5-(4-chlorophenyl)-6-(cyclopropylmethoxy)-N-(4-hydroxypiperidin-1-yl)-3-pyridinecarboxamide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC1CC1)C(=O)NN1CCC(CC1)O | C21H24ClN3O3
